US06506762B1
H. N-[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide
Treat a solution of 5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-ylamine (0.05 g, 1.9 mmol), and N,N-diisopropylethylamine, (0.04 mL, 0.21 mmol) in 1,2-dichloroethane (5 mL) with chloroacetyl chloride (0.017 mL, 0.21 mmol). Heat the solution to reflux for 3 h, cool to ambient temperature, and pour into an aqueous potassium carbonate solution. Extract the resulting mixture with CH2Cl2 and wash with saturated aq NaCl. Separate the organic layer, dry over Na2SO4, filter, and concentrate. Purify by preparative TLC (5% MeOH in CH2Cl2) to obtain the title compound as a yellow solid.

reactant | 5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-ylamine | 1.9 mmol, 0.05 g | CC1=CC(=C2C(=N1)N(C=N2)C2=C(C=C(C=C2C)C)C)N | C16H18N4
reactant | N,N-diisopropylethylamine | 0.21 mmol, 0.04 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | chloroacetyl chloride | 0.21 mmol, 0.017 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | N-[5-methyl-3-(2,4,6-trimethylphenyl)imidazolo[5,4-b]pyridin-7-yl]-2-chloroacetamide | CC1=CC(=C2C(=N1)N(C=N2)C2=C(C=C(C=C2C)C)C)NC(CCl)=O | C18H19ClN4O
